US05686486
4-Hydroxy-3-diphenylmethylcoumarin
To a mixture of 324 mg of 4-hydroxycoumarin and 368 mg of commercially available diphenylcarbinol in 30 mL of dioxane is added 0.37 mL of boron trifluoride etherate. After 100 hours at room temperature the reaction solution is diluted with 40 mL of diethyl ether and washed with water. The organic phase is dried (magnesium sulfate) and concentrated under reduced pressure. The residue is flash column chromatographed with 20% to 80% ethyl acetate in hexanes to give 587 mg of the title product.

reactant | 4-hydroxycoumarin | 324 mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | diphenylcarbinol | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
reactant | boron trifluoride etherate | 0.37 mL | B(F)(F)F.CCOCC
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 4-Hydroxy-3-diphenylmethylcoumarin | 587 mg | OC1=C(C(OC2=CC=CC=C12)=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H16O3
